US06825208B2
To a mixture of (273 mg, 1 mmol) of 4-Acetoxy-2-bromo-5-methoxybenzaldehyde, (164 mg, 1 mmol) of 4-isopropylphenylboronic acid and 276 mg (2 mmol) of K2CO3 in 5 mL of DMF and 1 mL of H2O was added 73.1 mg (0.1 mmol) of Pd(dppf)Cl2. The mixture was heated at 80° C. overnight. After the removal of the catalyst via filtration, the mixture was repartitioned between EtOAc and H2O. Aqueous layer was extracted 3 times with EtOAc and organic layers were combined and dried over Na2SO4. After the removal of the solvent, the residue was chromatographed to give 362 mg of 5-Hydroxy-4′-isopropyl-4-methoxy-biphenyl-2-carbaldehyde (72%).

reactant | 4-Acetoxy-2-bromo-5-methoxybenzaldehyde | 1 mmol, 273 mg | C(C)(=O)OC1=CC(=C(C=O)C=C1OC)Br | C10H9BrO4
reactant | 4-isopropylphenylboronic acid | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 73.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Hydroxy-4′-isopropyl-4-methoxy-biphenyl-2-carbaldehyde | 362 mg, 72% | OC1=C(C=C(C(=C1)C1=CC=C(C=C1)C(C)C)C=O)OC | C17H18O3
